US04386100
An ethanol solution of potassium hydroxide (16.6 g. in 400 ml.) was added to a stirred solution of indoline-2,3-dione (isatin) (43.6 g.) in dimethyl sulphoxide (400 ml.). After 10 minutes a solution of 4-acetoxybenzyl bromide (76.3 g.) in dimethyl sulphoxide (40 ml.) was added. The mixture was stirred for 72 hours and then poured into ice/water (~1000 ml.). The gum which first formed slowly crystallised. The solid which formed was recrystallised from methanol (500 ml.) to give 1-(4-acetoxybenzyl)indoline-2,3-dione as a solid, m.p. 159°-161° C.

reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | 400 ml, 16.6 g | [OH-].[K+]
reactant | indoline-2,3-dione | 43.6 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | 4-acetoxybenzyl bromide | 76.3 g | C(C)(=O)OC1=CC=C(CBr)C=C1 | C9H9BrO2
solvent | dimethyl sulphoxide | 400 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | 1-(4-acetoxybenzyl)indoline-2,3-dione | C(C)(=O)OC1=CC=C(CN2C(C(C3=CC=CC=C23)=O)=O)C=C1 | C17H13NO4
